US07572927B2
A microsystem composed of three T-shaped micromixers (M1, M2 and M3) and two microtube reactors (R1 and R2) was used. The whole microsystem was dipped in a cooling bath (−78° C.). A solution of o-dibromobenzene (0.27 M) in THF (flow rate: 6 mL/min, 1.62 mmol/min) and a solution of n-BuLi (1.5 M) in n-hexane (flow rate: 1.2 mL/min, 1.8 mmol/min) were introduced to the first T-shaped mixer M1 (inner diameter: 250 μm) by using syringe pumps. The resulting solution was passed through the tube reactor R1 and was mixed with benzaldehyde (0.65 M) in THF (flow rate: 3 mL/min, 1.95 mmol/min) in the second T-shaped mixer M2 (inner diameter: 500 μm). The solution was introduced to the third T-shaped mixer M3 (inner diameter: 500 μm), where the solution was quenched with methanol (neat, flow rate=3.0 mmol/min). The residence time of the tube reactor R1 (inner diameter: 500 μm, length=50 cm) was 0.82 second. The residence time of the tube reactor R2 (inner diameter: 1,000 μm, length=150 cm) was 6.93 second. After finishing the reaction, an aliquot of the product solution was taken (15 sec) and was analyzed by GC (column, CBP1; 0.25 mm×25 m; initial oven temperature, 50° C.; rate of temperature increase, 10° C./min). As a result, (2-bromophenyl)phenylmethanol (GC retention time: 23.7 min) was obtained in 75% yield. 1H NMR (400 MHz, CDCl3) δ: 2.59-2.78 (m, 1H), 6.11 (s, 1H), 7.09 (dt, J=7.6, 2.0 Hz, 1H), 7.19-7.36 (m, 6H), 7.47-7.54 (m, 2H); 13C NMR (100 MHz, CDCl3) δ: 74.7, 122.6, 126.9, 127.51, 127.53, 128.25, 128.29, 128.9, 132.6, 141.9, 142.3.

reactant | o-dibromobenzene | 0.27 M | BrC1=C(C=CC=C1)Br | C6H4Br2
reactant | n-BuLi | 1.5 M | [Li]CCCC
reactant | benzaldehyde | 0.65 M | C(C1=CC=CC=C1)=O | C7H6O
solvent | THF | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
product | (2-bromophenyl)phenylmethanol | 75% yield | BrC1=C(C=CC=C1)C(O)C1=CC=CC=C1 | C13H11BrO
